US08258130B2
A solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (372 mg, 1.7 mmol), HCTU (757 mg, 1.83 mmol), and DIPEA (780 μL, 4.47 mmol) in DMF (10 mL) is stirred at rt under N2 for 10 min. 5-Fluoro-3-methyl-indol-1-ylamine (250 mg, 1.52 mmol) is added. The resulting mixture is stirred at rt overnight. The mixture is portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is triturated in ether to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide (332 mg, 60%) as a solid. MS: 365 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 12.08 (s, 1H), 9.43 (s, 2H), 8.36 (d, 1H), 8.20 (dt, 1H), 7.70-7.62 (m, 1H), 7.48 (dt, 1H), 7.40 (dd, 1H), 7.35 (dd, 1H), 7.32 (s, 1H), 7.03 (dt, 1H), 2.27 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid | 1.7 mmol, 372 mg | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C11H7FN2O2
reactant | HCTU | 1.83 mmol, 757 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.47 mmol, 780 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Fluoro-3-methyl-indol-1-ylamine | 1.52 mmol, 250 mg | FC=1C=C2C(=CN(C2=CC1)N)C | C9H9FN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide | 332 mg, 60% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14F2N4O
